US08378095B2
A solution of diethyl 2-(2,6-difluorobenzamido)malonate (5.00 g, 15.9 mmol) in trifluorotoluene (16 mL) and trifluoroacetic anhydride (8.33 mL, 129.7 mmol) was heated in the microwave at 160° C. for 5 minutes. The solvent was removed in vacuo and the residue purified by silica gel column chromatography using a gradient of 0-90% EtOAc in hexanes to afford ethyl 2-(2,6-difluorophenyl)-5-ethoxyoxazole-4-carboxylate (2.11 g, 7.1 mmol, 45%) as a white solid which was used without further purification. 1H NMR (CDCl3) δ 1.39 (3H, t), 1.53 (3H, t), 4.39 (2H, q), 4.58 (2H, q), 7.02 (2H, t), 7.41 (1H, m).

reactant | diethyl 2-(2,6-difluorobenzamido)malonate | 15.9 mmol, 5.00 g | FC1=C(C(=O)NC(C(=O)OCC)C(=O)OCC)C(=CC=C1)F | C14H15F2NO5
reactant | trifluoroacetic anhydride | 129.7 mmol, 8.33 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | trifluorotoluene | 16 mL | FC(C1=CC=CC=C1)(F)F | C7H5F3
product | ethyl 2-(2,6-difluorophenyl)-5-ethoxyoxazole-4-carboxylate | 7.1 mmol, 2.11 g, 45% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C(=O)OCC)OCC | C14H13F2NO4
